US06127378
30. (+/-)-cis-8,9-Dimethoxy-6-[4-bis(p-nitrophenylsulfonyl)aminophenyl]-1,2,3,4,4a,10b-hexahydrophenanthridine
1.45 g of 4-nitrobenzenesulfonyl chloride in 20 ml of methylene chloride are added dropwise to a solution of 2.0 g of (+/-)-cis-8,9-dimethoxy-6-(4-aminophenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine in 50 ml of methylene chloride and 1.0 ml of triethylamine. The solution is stirred overnight at RT, extracted with water, and the organic phase is dried and concentrated. The residue is chromatographed on silica gel using a mixture of petroleum ether/ethyl acetate in the ratio 3:2. After concentration of the corresponding eluate fractions, the title compound of m.p. 234.5° C. is obtained.

reactant | 4-nitrobenzenesulfonyl chloride | 1.45 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | (+/-)-cis-8,9-dimethoxy-6-(4-aminophenyl)-1,2,3,4,4a,10b-hexahydrophenanthridine | 2.0 g | COC=1C=C2C(=N[C@H]3CCCC[C@H]3C2=CC1OC)C1=CC=C(C=C1)N | C21H24N2O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
product | (+/-)-cis-8,9-Dimethoxy-6-[4-bis(p-nitrophenylsulfonyl)aminophenyl]-1,2,3,4,4a,10b-hexahydrophenanthridine | COC=1C=C2C(=N[C@H]3CCCC[C@H]3C2=CC1OC)C1=CC=C(C=C1)N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C33H30N4O10S2
